US06528231B1
In a 500 ml separable flask equipped with a stirrer, a reflux condenser cooled with water, a thermometer and a dropping funnel, 10.96 g of 3,3′-dinitro-4,4′-diaminobiphenyl was dissolved into 200 ml of N,N-dimethylformamide and then 20 ml of pyridine was added to the solution. While the prepared solution was cooled at 3 to 14° C., 12.53 g of 2-furoyl chloride was added dropwise to the solution. After the addition was completed, the reaction solution was warmed to the room temperature and stirred for further 5 hours. Then, 80 ml of 2N hydrochloric acid and 100 ml of water were added to the solution and the solid substance was separated by filtration. The obtained solid substance was washed well with water and dried in a reduced pressure to obtain 15.0 g of 3,3′-dinitro-4,4′-di-2-furoylaminobiphenyl. The yield was 81%.

reactant | 3,3′-dinitro-4,4′-diaminobiphenyl | 10.96 g | [N+](=O)([O-])C=1C=C(C=CC1N)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C12H10N4O4
reactant | 2-furoyl chloride | 12.53 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | hydrochloric acid | 2N, 80 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3,3′-dinitro-4,4′-di-2-furoylaminobiphenyl | 15.0 g, yield was 81% | [N+](=O)([O-])C=1C=C(C=CC1NC(=O)C=1OC=CC1)C1=CC(=C(C=C1)NC(=O)C=1OC=CC1)[N+](=O)[O-] | C22H14N4O8
